US05541229
4'-[(2-n-Butyl-6-(N-(4-methoxycarbonyl-thiazolidin-3-yl-carbonyl)-n-butylamino)-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylic acid
Prepared in analogous manner to Example 9 from tert.butyl 4'-[(2-n-butyl-6-(N-(4-methoxycarbonyl-thiazolidin-3-ylcarbonyl)-n-butylamino)-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylate and trifluoroacetic acid.

reactant | tert.butyl 4'-[(2-n-butyl-6-(N-(4-methoxycarbonyl-thiazolidin-3-ylcarbonyl)-n-butylamino)-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylate | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC(C)(C)C)C=C(C=C2)N(C(=O)N2CSCC2C(=O)OC)CCCC | C39H48N4O5S
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | 4'-[(2-n-Butyl-6-(N-(4-methoxycarbonyl-thiazolidin-3-yl-carbonyl)-n-butylamino)-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylic acid | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)O)C=C(C=C2)N(C(=O)N2CSCC2C(=O)OC)CCCC | C35H40N4O5S
